US04673700
N,N-Bis(p-cyanobenzyl)hydroxylamine
A mixture of 10.0 grams of alpha-bromo-p-cyanotoluene, 1.77 grams of hydroxylamine hydrochloride and 10.6 grams of anhydrous sodium carbonate in 50 ml of dry N,N-dimethylformamide (DMF) is allowed to stand overnight at room temperature. The DMF solvent is then removed under reduced pressure and the reidue is partitioned between methylene chloride and water. The organic layer is washed with water, dried over anhydrous sodium sulfate and then evaporated in vacuo to give a solid residue which upon trituration with ethanol yields the above-named compound as a white solid, melting at 172°-175° C.

reactant | alpha-bromo-p-cyanotoluene | 10.0 grams | BrCC1=CC=C(C=C1)C#N | C8H6BrN
reactant | hydroxylamine hydrochloride | 1.77 grams | Cl.NO
reactant | sodium carbonate | 10.6 grams | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N,N-Bis(p-cyanobenzyl)hydroxylamine | C(#N)C1=CC=C(CN(O)CC2=CC=C(C=C2)C#N)C=C1 | C16H13N3O
